US07790747B2
A solution of N-{3-[4-((R)-2-Amino-1-phenyl-ethylamino)-piperidin-1-yl]-butyl}-6-chloro-2,4-dimethyl-nicotinamide (60 mg, 0.13 mmol) and 1-Methyl-1H-pyrrole-2-carbaldehyde (15 mg, 0.13 mmol) in CH3OH (2 ml) was stirred at rt for 2 h. The mixture was then cooled to 0° C. NaBH4 (8 mg, 0.2 mmol) was added. The mixture was stirred at this temperature for 20 min. NH4Cl (aq. Sat. 1 ml) was then added and the mixture was extracted with CH2Cl2 (3×10 ml). The organic layer was dried and concentrated. Purification of the residue by chromatography on silica gel (CH2Cl2/MeOH, 9:1) afforded 6-chloro-2,4-dimethyl-N-[3-(4-{(R)-2-[(1-methyl-1H-pyrrol-2-ylmethyl)-amino]-1-phenyl-ethylamino}-piperidin-1-yl)-butyl]-nicotinamide (57 mg, 79%).

reactant | N-{3-[4-((R)-2-Amino-1-phenyl-ethylamino)-piperidin-1-yl]-butyl}-6-chloro-2,4-dimethyl-nicotinamide | 0.13 mmol, 60 mg | NC[C@@H](C1=CC=CC=C1)NC1CCN(CC1)C(CCNC(C1=C(N=C(C=C1C)Cl)C)=O)C | C25H36ClN5O
reactant | 1-Methyl-1H-pyrrole-2-carbaldehyde | 0.13 mmol, 15 mg | CN1C(=CC=C1)C=O | C6H7NO
reactant | NaBH4 | 0.2 mmol, 8 mg | [BH4-].[Na+]
reactant | NH4Cl | 1 ml | [NH4+].[Cl-]
solvent | CH3OH | 2 ml | CO | CH4O
product | 6-chloro-2,4-dimethyl-N-[3-(4-{(R)-2-[(1-methyl-1H-pyrrol-2-ylmethyl)-amino]-1-phenyl-ethylamino}-piperidin-1-yl)-butyl]-nicotinamide | 57 mg, 79% | ClC1=NC(=C(C(=O)NCCC(C)N2CCC(CC2)N[C@@H](CNCC=2N(C=CC2)C)C2=CC=CC=C2)C(=C1)C)C | C31H43ClN6O
